US04465834
Methyl α-Phenyl-α-(trans-1-propenyl)glycolate
Lithium ribbon (1.0% Na content) 6.9 g., 1.0 g. at.) was cut into strips (1.0 cm.=0.089 g.), degreased in hexane and cut into thin strips into ether (200 ml.) under helium. The reaction flask was equipped with dry-ice condenser and trans-propenyl chloride (25.5 g., 0.30 mole) was introduced dropwise during 60 minutes to the rapidly stirred suspension. The reaction was exothermic and was controlled by the addition of the halide. After addition the mixture was stirred for an additional 60 minutes. The trans-propenyllithium slurry was subsequently siphoned (in spurts during 30 minutes by He.pressure) into a stirred solution containing methyl phenylglyoxylate (55.0 g., 0.3 mole) in ether which was cooled to -78°. After 30 minutes of additional stirring, the reaction was warmed to -10° and poured onto 30 ml. of concentrated HCl and ca. 200 g. of ice. The ether layer was separated and the aqueous layer was further extracted with 3×50 ml. of ether. All ether layers were combined and dried over Drierite for 18 hours. After the solvent was stripped, the crude product weighting 58.1 g. (94%) was obtained which on distillation afforded 35 g. (57%) of pure material, b.p. 100° (0.05 mm.).

reactant | Lithium | [Li] | Li
reactant | trans-propenyl chloride | 0.30 mole, 25.5 g | C(=C\C)/Cl | C3H5Cl
reactant | trans-propenyllithium | C(=C\C)/[Li]
reactant | methyl phenylglyoxylate | 0.3 mole, 55.0 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | HCl | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | Methyl α-Phenyl-α-(trans-1-propenyl)glycolate | C1(=CC=CC=C1)C(C(=O)OC)(O)\C=C\C | C12H14O3
